************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: DLY4X1
* View Name:     schematic
* Netlisted on:  Jun  4 07:42:16 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    DLY4X1
* View Name:    schematic
************************************************************************

.SUBCKT DLY4X1 A VDD VSS Y
*.PININFO A:I VDD:I VSS:I Y:O
Mmn14 net345 VDD net341 VSS g45n1svt m=1 l=45n w=145n
Mmn13 net341 net353 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn12 net353 VDD net349 VSS g45n1svt m=1 l=45n w=145n
Mmn11 net349 net361 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 net361 VDD net357 VSS g45n1svt m=1 l=45n w=145n
Mmn9 net357 net369 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn15 net333 net345 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 net377 VDD net373 VSS g45n1svt m=1 l=45n w=145n
Mmn0 net397 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn4 net385 VDD net381 VSS g45n1svt m=1 l=45n w=145n
Mmn1 net389 net397 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn7 net365 net377 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn16 Y net333 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn3 net381 net393 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 net393 VDD net389 VSS g45n1svt m=1 l=45n w=145n
Mmn8 net369 VDD net365 VSS g45n1svt m=1 l=45n w=145n
Mmn5 net373 net385 VSS VSS g45n1svt m=1 l=45n w=145n
Mmp8 net369 VSS net300 VDD g45p1svt m=1 l=45n w=215n
Mmp7 net300 net377 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp9 net292 net369 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 net361 VSS net292 VDD g45p1svt m=1 l=45n w=215n
Mmp6 net377 VSS net308 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net308 net385 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp4 net385 VSS net316 VDD g45p1svt m=1 l=45n w=215n
Mmp3 net316 net393 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp2 net393 VSS net324 VDD g45p1svt m=1 l=45n w=215n
Mmp1 net324 net397 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp11 net284 net361 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 net353 VSS net284 VDD g45p1svt m=1 l=45n w=215n
Mmp13 net276 net353 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp14 net345 VSS net276 VDD g45p1svt m=1 l=45n w=215n
Mmp15 net333 net345 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 net397 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp16 Y net333 VDD VDD g45p1svt m=1 l=45n w=390n
.ENDS

