************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: EDFFHQX4
* View Name:     schematic
* Netlisted on:  Jun  4 07:42:22 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    EDFFHQX4
* View Name:    schematic
************************************************************************

.SUBCKT EDFFHQX4 CK D E Q VDD VSS
*.PININFO CK:I D:I E:I VDD:I VSS:I Q:O
Mmn3 Db E net333 VSS g45n1svt m=1 l=45n w=260n
Mmn2 net333 D VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn51 n30 CKb net380 VSS g45n1svt m=1 l=45n w=205n
Mmn50 net380 qbint VSS VSS g45n1svt m=1 l=45n w=205n
Mmn35 net340 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=410n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 mout CKbb n30 VSS g45n1svt m=1 l=45n w=205n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn0 Eb E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 qbint Eb Db VSS g45n1svt m=1 l=45n w=260n
Mmn25 n20 CKb Db VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 CKbb net340 VSS g45n1svt m=1 l=45n w=205n
Mmp3 Db Eb net328 VDD g45p1svt m=1 l=45n w=390n
Mmp2 net328 D VDD VDD g45p1svt m=1 l=45n w=390n
Mmp51 n30 CKbb net317 VDD g45p1svt m=1 l=45n w=310n
Mmp50 net317 qbint VDD VDD g45p1svt m=1 l=45n w=310n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp35 net309 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp36 n20 CKb net309 VDD g45p1svt m=1 l=45n w=310n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=620n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 mout CKb n30 VDD g45p1svt m=1 l=45n w=310n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp1 qbint E Db VDD g45p1svt m=1 l=45n w=390n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=310n
Mmp0 Eb E VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

